US07592358B2
23.1d. 5-(4-chlorophenyl)-2-{3-methyl-4-[3-(4-methylpiperidin-1-yl)propyl]phenylethynyl}pyridine
The product was obtained analogously to Example 7.1e starting from 1-[3-(4-iodo-2-methylphenyl)propyl]-4-methylpiperidine and 5-(4-chlorophenyl)-2-ethynylpyridine. Yield: 29 mg (9% of theoretical); C29H31ClN2 (M=443.023); calc.: molpeak (M+H)+: 443/445 (Cl); found: molpeak (M+H)+: 443/445 (Cl); HPLC-MS: 8.55 minutes (method A).

reactant | 1-[3-(4-iodo-2-methylphenyl)propyl]-4-methylpiperidine | IC1=CC(=C(C=C1)CCCN1CCC(CC1)C)C | C16H24IN
reactant | 5-(4-chlorophenyl)-2-ethynylpyridine | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#C | C13H8ClN
product | 5-(4-chlorophenyl)-2-{3-methyl-4-[3-(4-methylpiperidin-1-yl)propyl]phenylethynyl}pyridine | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#CC1=CC(=C(C=C1)CCCN1CCC(CC1)C)C | C29H31ClN2
